US05459151
3-[4-(3-cyclopentyloxy-4-methoxyphenyl)piperidin-1-yl]-3-oxo-propionamide
In the same manner as Example, 9, 3-[4-(3-cyclopentyloxy-4-methoxyphenyl)piperidin-1-yl]-3-oxo-propionic acid (0.70 mmol, 0.25 g), oxalyl chloride (0.77 mmol, 0.385 mL; 2M solution in CH2Cl2), DMF (4 drops) and saturated NH3 /CH3CN solution (10 mL) in dry toluene (10 mL) afforded a solid which was triturated in Et2O/hexane to give the title compound as a white solid, mp=132°-133° C. (0.40 mmol, 0.150 g, 60%).

reactant | 3-[4-(3-cyclopentyloxy-4-methoxyphenyl)piperidin-1-yl]-3-oxo-propionic acid | 0.70 mmol, 0.25 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1CCN(CC1)C(CC(=O)O)=O | C20H27NO5
reactant | oxalyl chloride | 0.77 mmol, 2M, 0.385 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NH3 CH3CN | 10 mL | N.CC#N
catalyst | DMF | 4 drops | CN(C)C=O | C3H7NO
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[4-(3-cyclopentyloxy-4-methoxyphenyl)piperidin-1-yl]-3-oxo-propionamide | C1(CCCC1)OC=1C=C(C=CC1OC)C1CCN(CC1)C(CC(=O)N)=O | C20H28N2O4
